US04623727
2-Methyl-5,7-dichloro-8-(cyanomethoxy)-quinoline (Compound No. 18)
10.7 g of 5,7-dichloro-8-hydroxyquinaldine are dissolved at elevated temperature in 150 ml of 2-butanone; 10.4 g of potassium carbonate are then added portionwise, and the mixture is refluxed for one hour. After the addition of 1 g of potassium iodide, there are added dropwise, with stirring and refluxing, 7.1 g of chloroacetonitrile in 30 ml of 2-butanone, and the mixture is subsequently heated for 3 hours at an internal temperature of 75° C. To the resulting reaction mixture, after cooling to room temperature, is added 1 liter of water, and the whole is filtered; the residue is washed with water, dried, and recrystallised from chloroform/petroleum ether (40°-60° C.) to thus obtain 2-methyl-5,7-dichloro-8-(cyanomethoxy)-quinoline, m.p. 157°-158° C.

reactant | 5,7-dichloro-8-hydroxyquinaldine | 10.7 g | ClC1=C2C=CC(=NC2=C(C(=C1)Cl)O)C | C10H7Cl2NO
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | chloroacetonitrile | 7.1 g | ClCC#N | C2H2ClN
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
solvent | water | 1 liter | O | H2O
product | 2-Methyl-5,7-dichloro-8-(cyanomethoxy)-quinoline | CC1=NC2=C(C(=CC(=C2C=C1)Cl)Cl)OCC#N | C12H8Cl2N2O
